Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],1.32531428298
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]1([H:11])[H:12],-0.46522827296
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[H:15],4.80777189947
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([H:9])[H:16].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.06398266073
[H:12].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.91480937685
[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.24112648199
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],1.81905872787
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[H:8]>>[H:4].[O:1]1[C:2]([C:5]([H:6])([H:7])[H:8])[C:3]1,3.64913580911
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],1.91179284625
[H:1][O:2][C:3]#[C:4].[O:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-1.31929654186
[H:16].[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.57125026466
[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-5.85240672077
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])([H:4])[C:5](=[C:6])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[C:5](=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.56825587435
[H:1][O:2][C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][O:4][C:5](=[C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8],5.159436625
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:1][O:2],5.4413900148800005
[H:1][C:2][O:4][C:5][C:6]([H:7])[O:8][C:9]([H:10])[H:11].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])[O:8][C:9]([H:10])[H:11],-4.6920742165
[H:1][C:2]([H:3])=[C:4](/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[C:4][C:12]([H:13])([H:14])[H:15],2.0255347393900003
[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-2.35561755768
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])(=[C:5][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15])[H:8].[H:1][C:2]#[C:6][H:7],2.00952648121
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:6],1.57574870825
[H:1].[O:2]=[C:3]=[C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12],-0.8908854708859999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1],5.96937950142
[C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.89448444489
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[C:4]([H:5])[O:6][C:7]([H:8])[H:9].[O:1]=[C:2][H:3],4.31695401445
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C@@:8]([H:9])([C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[O:4],0.80402684
[H:10].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][O:7][C:8][H:9]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][O:7][C:8]([H:9])[H:10],-4.258127279709997
[H:1][C:2]([H:3])[O:4][C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])[O:4][C:5]#[C:6],6.40046779972
